US09126991B2
Preparation of N-{[(5S)-3-(2-fluoro-4′-{[(1H-1,2,3-triazol-5-ylmethyl)amino]methyl}biphenyl-4-yl)-2-oxo-1,3-oxazolidin-5-yl]methyl}acetamide monohydrobromide crystalline polymorph
To a stirred suspension of N-{[(5S)-3-(2-fluoro-4′-{[(1H-1,2,3-triazol-5-ylmethyl)amino]methyl}biphenyl-4-yl)-2-oxo-1,3-oxazolidin-5-yl]methyl}acetamide (56.7 mg, 0.129 mmol) in ethanol (1.0 mL) was added 1.0 M hydrogen bromide in ethanol containing 8.77% water (0.39 mL, 0.39 mmol), and the resulting mixture was stirred at room temperature for 60 min. The mixture was then heated to 65° C., stirred for 60 min, cooled to room temperature and stirred for an additional 2 h. The solid was filtered and dried under reduced pressure at 50° C. to afford the title compound (64.5 mg, 94.5%) as a crystalline solid which was characterized by XRPD. FIG. 2 shows a characteristic X-ray powder diffraction (XRPD) pattern of crystalline N-{[(5S)-3-(2-fluoro-4′-{[(1H-1,2,3-triazol-5-ylmethyl)amino]methyl}biphenyl-4-yl)-2-oxo-1,3-oxazolidin-5-yl]methyl}acetamide monohydrobromide. Characteristic peaks, expressed in degrees 2θ, are listed in Table 2.

reactant | N-{[(5S)-3-(2-fluoro-4′-{[(1H-1,2,3-triazol-5-ylmethyl)amino]methyl}biphenyl-4-yl)-2-oxo-1,3-oxazolidin-5-yl]methyl}acetamide | 0.129 mmol, 56.7 mg | FC1=C(C=CC(=C1)N1C(O[C@H](C1)CNC(C)=O)=O)C1=CC=C(C=C1)CNCC1=CN=NN1 | C22H23FN6O3
reactant | hydrogen bromide | 1.0 M | Br | BrH
solvent | ethanol | 1.0 mL | C(C)O | C2H6O
solvent | ethanol | 0.39 mmol, 0.39 mL | C(C)O | C2H6O
product | N-{[(5S)-3-(2-fluoro-4′-{[(1H-1,2,3-triazol-5-ylmethyl)amino]methyl}biphenyl-4-yl)-2-oxo-1,3-oxazolidin-5-yl]methyl}acetamide monohydrobromide | 64.5 mg, 94.5% | Br.FC1=C(C=CC(=C1)N1C(O[C@H](C1)CNC(C)=O)=O)C1=CC=C(C=C1)CNCC1=CN=NN1 | InChI=1S/C22H23FN6O3.BrH/c1-14(30)25-12-19-13-29(22(31)32-19)18-6-7-20(21(23)8-18)16-4-2-15(3-5-16)9-24-10-17-11-26-28-27-17;/h2-8,11,19,24H,9-10,12-13H2,1H3,(H,25,30)(H,26,27,28);1H/t19-;/m0./s1
